US04113869
e. Preparation of (+ )- 7 -dimethylaminoethoxy- 2 -methyl- 4 -phenyl- 1,2,3,4 -tetrahydro isoquinoline
The title compound was prepared from (+)- 7 -methoxy- 2 -methyl- 4 -phenyl- 1,2,3,4 -terahydro isoquinoline via (+)- 7 -hydroxy- 2 -methyl- 4 -phenyl- 1,2,3,4 -tetrahydro isoquinoline which was characterised as its hydrochloride salt m.p. 222°-3° C. (methanol-ether) [α]D25 + 24.1° (water) by the method of Example 1. The title compound was characterised as its dihydrochloride salt m.p. 160°-4° (hydroscopic) (ethanol ethyl acetate), [α]D5 + 13° (water). -tetrahydro

reactant | (+)- 7 -methoxy- 2 -methyl- 4 -phenyl- 1,2,3,4 -terahydro isoquinoline | COC1=CC=C2C(CN(CC2=C1)C)C1=CC=CC=C1 | C17H19NO
reactant | (+)- 7 -hydroxy- 2 -methyl- 4 -phenyl- 1,2,3,4 -tetrahydro isoquinoline | OC1=CC=C2C(CN(CC2=C1)C)C1=CC=CC=C1 | C16H17NO
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | water | O | H2O
product | (+ )- 7 -dimethylaminoethoxy- 2 -methyl- 4 -phenyl- 1,2,3,4 -tetrahydro isoquinoline | CN(C)CCOC1=CC=C2C(CN(CC2=C1)C)C1=CC=CC=C1 | C20H26N2O
